US05965589
According to the same manner as that described in Example 1, 4-benzyloxy-3,5-dimethoxycinnamaldehyde was condensed with 2,4-thiazolidinedione to give 5-(4-benzyloxy-3,5-dimethoxycinnamylidene)-2,4-thiazolidinedione (yield: 57%). This product was recrystallized from chloroform-ethanol. Yellow prisms, mp: 217-218° C.

reactant | 4-benzyloxy-3,5-dimethoxycinnamaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=CC=O)C=C1OC)OC | C18H18O4
reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-(4-benzyloxy-3,5-dimethoxycinnamylidene)-2,4-thiazolidinedione | yield: 57% | C(C1=CC=CC=C1)OC1=C(C=C(C=CC=C2C(NC(S2)=O)=O)C=C1OC)OC | C21H19NO5S
